US08242104B2
A solution of 0.11 g (0.28 mmol) of (E)-methyl 3-(2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)acrylate in 5 ml of THF/ethanol mixture was subjected to hydrogenation over 100 mg of 10% Pd—C for 4 hours. The mixture was filtered through celite; the filtrate was concentrated in vacuum to give Methyl 3-(2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)propanoate. Yield 96 mg. M/z 396.2, calc. 395.20

reactant | (E)-methyl 3-(2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)acrylate | 0.28 mmol, 0.11 g | C(C)(C)N1N=C(N=C1C=1N=C2N(CCOC3=C2C=CC(=C3)/C=C/C(=O)OC)C1)C | C21H23N5O3
solvent | THF ethanol | 5 ml | C1CCOC1.C(C)O
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | Methyl 3-(2-(1-isopropyl-3-methyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)propanoate | C(C)(C)N1N=C(N=C1C=1N=C2N(CCOC3=C2C=CC(=C3)CCC(=O)OC)C1)C | C21H25N5O3
